US05656426
9-Acridinecarbonyl chloride hydrochloride
A mixture of 9-acridinecarboxylic acid hydrate (10.0 g, 44.80 mmol) in 80 mL of thionyl chloride was refluxed at 100° C. under nitrogen for 2 hours, and then cooled to 25° C. The resulting solution was reduced to about half the original volume under reduced pressure, and then poured into 500 mL of anhydrous diethyl ether. The yellow precipitate was collected, washed with ether (3×100 mL), and dried under reduced pressure for 2 hours, to produce 12.95 g (~ 100% yield) of the product, which was used immediately for the next reaction.

reactant | 9-acridinecarboxylic acid hydrate | 44.80 mmol, 10.0 g | O.C1=CC=CC2=NC3=CC=CC=C3C(=C12)C(=O)O
reactant | diethyl ether | 500 mL | C(C)OCC | C4H10O
reactant | thionyl chloride | 80 mL | S(=O)(Cl)Cl | Cl2OS
product | 9-Acridinecarbonyl chloride hydrochloride | 12.95 g, ~ 100% yield | Cl.C1=CC=CC2=NC3=CC=CC=C3C(=C12)C(=O)Cl | InChI=1S/C14H8ClNO.ClH/c15-14(17)13-9-5-1-3-7-11(9)16-12-8-4-2-6-10(12)13;/h1-8H;1H
